US05888531
(S,S)-4-[2-Benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-3-(3-benzyloxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid tert-butyl ester
In 50 ml of dichloromethane were dissolved 1.7 g of (S,S)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-3-(3-benzyloxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid produced in Reference Example 34, 2 ml of tert-butanol and 1.6 g of 4-dimethylaminopyridine. To the solution was then added 0.6 g of WSC, and the mixture was stirred for 24 hours at room temperature. Dichloromethane was distilled off, and the residue was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and a saturated aqueous saline solution, which was then dried (Na2SO4), followed by concentration under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (AcOEt), followed by crystallization from ether/hexane to afford 1.02 g of the title compound as colorless crystals.

reactant | (S,S)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-3-(3-benzyloxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid | 1.7 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CCCNC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OC | C35H40N4O9
reactant | tert-butanol | 2 ml | C(C)(C)(C)O | C4H10O
reactant | WSC | 0.6 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (S,S)-4-[2-Benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-3-(3-benzyloxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid tert-butyl ester | 1.02 g | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C([C@H](CC1=CC=C(C=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)CCCNC(=O)OCC1=CC=CC=C1)=O)=O | C39H48N4O9
